US05461161
4. Preparation of Methyl 3-Amino-2-chloroisonicotinate
A mixture of 18 g (118 mmol) of methyl 3-aminoisonicotinate and 12 g (60 mmol) of 1,3-dichloro-5,5-dimethylhydantoin in 1500 mL of tetrachloroethylene was warmed slowly to 80° C. with stirring and held there for 3 hours. The solution was then cooled, filtered, washed with dilute aqueous sodium bicarbonate, dried over magnesium sulfate, filtered, and concentrated by evaporation under reduced pressure to obtain a dark oil. This oil was purified by careful column chromatography to give 6.7 g (30 percent of theory) of the title compound as a colorless solid melting at 91°-92° C.

reactant | methyl 3-aminoisonicotinate | 118 mmol, 18 g | NC1=C(C(=O)OC)C=CN=C1 | C7H8N2O2
reactant | 1,3-dichloro-5,5-dimethylhydantoin | 60 mmol, 12 g | ClN1C(=O)N(C(=O)C1(C)C)Cl | C5H6Cl2N2O2
solvent | tetrachloroethylene | 1500 mL | ClC(=C(Cl)Cl)Cl | C2Cl4
product | Methyl 3-Amino-2-chloroisonicotinate | NC1=C(C(=O)OC)C=CN=C1Cl | C7H7ClN2O2
